US06984646B2
4-(2,5-Difluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 20 with 500 mg (1.81 mmol) of 1-(2,5-Difluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone (example XXXXII), 195.5 mg (3.62 mmol) of sodium methylate and 152.2 mg (1.81 mmol) methyl propiolate.

reactant | 1-(2,5-Difluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone | 1.81 mmol, 500 mg | FC1=C(C=C(C=C1)F)C(CC1=NC2=C(N1)CCCC2)=O | C15H14F2N2O
reactant | sodium methylate | 3.62 mmol, 195.5 mg | C[O-].[Na+]
reactant | methyl propiolate | 1.81 mmol, 152.2 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(2,5-Difluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | FC1=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=C(C=C1)F | C18H14F2N2O2
